US07645784B2
(7-Cyano-1H-benzimidazol-1-yl)acetic acid was prepared starting from 1-(2-hydroxyethyl)-1H-benzimidazole-7-carbonitrile (89 mg) according to the procedure described for the synthesis of (7-bromo-1H-benzoimidazol-1-yl)acetic acid. Yield 38 mg (39 %). MS (ESI) m/z 202.0 [M+H). 1H NMR (400 MHz, DMSO-D6) δ ppm: 5.31 (s, 2 H), 7.37 (dd, J=8.1, 7.7 Hz, 1H), 7.75 (dd, J=7.6, 0.8 Hz, 1H), 8.04 (dd, J=8.1, 1.1 Hz, 1H), 8.38 (s, 1H), 13.43 (bs, 1H).

reactant | 1-(2-hydroxyethyl)-1H-benzimidazole-7-carbonitrile | 89 mg | OCCN1C=NC2=C1C(=CC=C2)C#N | C10H9N3O
reactant | (7-bromo-1H-benzoimidazol-1-yl)acetic acid | BrC1=CC=CC2=C1N(C=N2)CC(=O)O | C9H7BrN2O2
product | (7-Cyano-1H-benzimidazol-1-yl)acetic acid | C(#N)C1=CC=CC2=C1N(C=N2)CC(=O)O | C10H7N3O2
